US04399294
1. N-[2-[(5-Formyl-2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3 (2H)-dione
A solution of phosphoryl chloride (21.4 g) in dry dimethylformamide (40 ml), cooled in ice, was added portionwise to a solution of N-[2-[(2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3(2H)-dione (21.4 g) in dry dimethylformamide (70 ml). After 5 hours at room temperature, the solution was poured into iced water (1.7 l). Isopropyl alcohol (150 ml) was added and after 18 hours the solid which separated was filtered and crystallised from ethyl acetate-ether to give the title compound (22.3 g) m.p. 76°-77°.

reactant | phosphoryl chloride | 21.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-[2-[(2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3(2H)-dione | 21.4 g | O1C(=CC=C1)CSCCN1C(C2=CC=CC=C2C1=O)=O | C15H13NO3S
reactant | water | 1.7 l | O | H2O
reactant | Isopropyl alcohol | 150 ml | C(C)(C)O | C3H8O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | N-[2-[(5-Formyl-2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3 (2H)-dione | 22.3 g | C(=O)C1=CC=C(O1)CSCCN1C(C2=CC=CC=C2C1=O)=O | C16H13NO4S
